US03968116
5-(Trifluoromethyl)-3-nitro-2-aminopyridine is reacted with 2,2-difluoro-4-iodobutyric anhydride to obtain 5-(trifluoromethyl)-3-nitro-2-(2,2-difluoro-4-iodobutyramido)pyridine, which on hydrogenation yields 6-(trifluoromethyl)-1-hydroxy-2-(1,1-difluoro-3-iodo-n-propyl)-1H-imidazo(4,5-b)pyridine.

reactant | 5-(Trifluoromethyl)-3-nitro-2-aminopyridine | FC(C=1C=C(C(=NC1)N)[N+](=O)[O-])(F)F | C6H4F3N3O2
reactant | 2,2-difluoro-4-iodobutyric anhydride | FC(C(=O)OC(C(CCI)(F)F)=O)(CCI)F | C8H8F4I2O3
product | 5-(trifluoromethyl)-3-nitro-2-(2,2-difluoro-4-iodobutyramido)pyridine | FC(C=1C=C(C(=NC1)NC(C(CCI)(F)F)=O)[N+](=O)[O-])(F)F | C10H7F5IN3O3
